US09371319B2
Preparation 157: 6-Bromo-1-(2-methoxyethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 100 mg, 0.36 mmole) was azeotroped with toluene (3 mL) and dissolved in DMF (1 mL). To the solution was added sodium hexamethyldisilazide, 1M in THF (0.4 mL, 0.4 mmole) and the reaction was stirred at room temperature for 20 minutes. Bromoethylmethyl ether (65 uL, 100 mg, 0.8 mmole) was added and the reaction was stirred at room temperature for 18 hours. The reaction was diluted with ethyl acetate (25 mL) and the solution washed with water (3×8 mL) and with brine, dried and evaporated to afford the title compound. 1H-NMR (CDCl3, 500 MHz): δ 3.31 (s, 3H), 3.72 (t, J=5.68 Hz, 2H), 4.01 (s, 3H), 4.28 (t, J=5.68 Hz, 2H), 6.54 (d, J=0.95 Hz, 1H), 7.48 (t, J=0.95 Hz, 1H), 7.71 (s, 1H), 7.74 (d, J=0.95 Hz, 1H), 8.60 (d, J=0.95 Hz, 1H).

reactant | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.36 mmole, 100 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | THF | 0.4 mmole, 0.4 mL | C1CCOC1 | C4H8O
reactant | Bromoethylmethyl ether | 0.8 mmole, 65 uL, 100 mg | BrCCOC | C3H7BrO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-1-(2-methoxyethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | BrC1=CC2=C(C=N1)C=C(N2CCOC)C=2C=NN(C2)C | C14H15BrN4O
